US06506747B1
A mixture of 2-chloro-6-methylbenzonitrile (5 g, 33.0 mmol) and CsF (14 g, 92.2 mmol) in DMSO (30 ml) was heated at 140° C. for 15 hr and then allowed to cool to room temperature. It was diluted with water, extracted with dichloromethane, washed with brine, dried (Na2SO4) and concentrated to give 2-fluoro-6-methylbenzonitrile (2.93 g, 66%). A mixture of the above nitrile (250 mg), 1-(4-aminophenyl)-3-(3-pyridyl)-5-ethylpyrazole (200 mg, 0.76 mmol) and Raney Ni (50% in water, 100 mg) in glacial acetic acid (15 ml) was shaken in a Parr apparatus under H2 (40 psi) for 7 hr. The catalyst was removed by filtration and the solvent was evaporated. Chromatography on silica gel (hexane/ethyl acetate=2:1) afforded the title compound (146 mg). 1H-NMR (CDCl3): 1.30 (t, J=7.5 Hz, 3H), 2.46 (s, 3H), 2.67 (q, J=7.5 Hz, 2H), 3.92 (bs, 1H), 4.38 (s, 2H), 6.58 (s, 1H), 6.78 (d, J=8.6 Hz, 2H), 6.99 (t, J=6.8Hz, 1H), 7.05 (d, J=7.8 Hz, 1H), 7.19-7.38 (m, 4 H), 8.20 (d, J=7.8 Hz, 1H), 8.56 (d, J=3.7Hz, 1H), 9.10 (s, 1H).

reactant | 2-chloro-6-methylbenzonitrile | 33.0 mmol, 5 g | ClC1=C(C#N)C(=CC=C1)C | C8H6ClN
reactant | CsF | 92.2 mmol, 14 g | [F-].[Cs+]
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-fluoro-6-methylbenzonitrile | 2.93 g, 66% | FC1=C(C#N)C(=CC=C1)C | C8H6FN
